US06787653B2
To a solution of 136 mg (0.173 mmol) of 1,3-bis[4-[4-(3,5-dimethoxy-4-methylthiophenyl)benzoyl]-1-piperazinyl]propane in chloroform (3 mL) stirred in an ice bath was added 0.11 mL (0.44 mmol) of a 4 mol/L ethyl acetate solution of hydrogen chloride, and the mixture was concentrated under reduced pressure. Methanol-diethyl ether was added and the precipitates were pulverized and collected by filtration to afford 105.0 mg of 1,3-bis[4-[4-(3,5-dimethoxy-4-methylthiophenyl)benzoyl]-1-piperazinyl]propane dihydrochloride as a colorless amorphous powder (yield 71%).

reactant | 1,3-bis[4-[4-(3,5-dimethoxy-4-methylthiophenyl)benzoyl]-1-piperazinyl]propane | 0.173 mmol, 136 mg | COC1=C(SC(=C1C)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C=2SC(=C(C2OC)C)OC)=O)C=C1 | C39H48N4O6S2
reactant | ethyl acetate | 4 mol/L | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 1,3-bis[4-[4-(3,5-dimethoxy-4-methylthiophenyl)benzoyl]-1-piperazinyl]propane dihydrochloride | 105.0 mg, yield 71% | Cl.Cl.COC1=C(SC(=C1C)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C=2SC(=C(C2OC)C)OC)=O)C=C1 | InChI=1S/C39H48N4O6S2.2ClH/c1-26-32(46-3)34(50-38(26)48-5)28-8-12-30(13-9-28)36(44)42-22-18-40(19-23-42)16-7-17-41-20-24-43(25-21-41)37(45)31-14-10-29(11-15-31)35-33(47-4)27(2)39(49-6)51-35;;/h8-15H,7,16-25H2,1-6H3;2*1H
